US05885986
A solution of 3.12 g (0.010 mol) of 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide in 200 ml of acetic acid was treated with 3.36 g (0.015 mol) of N-iodosuccinimide while gassing with argon. After stirring at room temperature for 39 hrs. the dark brown suspension obtained was completely freed from the solvents and dried azeotropically several times with toluene. The brown residue was dissolved in 100 ml of THF, treated with 11.9 ml (0.0865 mol) of dipropylamine and stirred at room temperature for 22 hrs. The brown solution obtained was completely freed from the solvents, the residue was partitioned between ethyl acetate and 1N aqueous hydrochloric acid and extracted. The aqueous-acidic phase was made basic and extracted with ethyl acetate. The organic phase was concentrated, the orange-brownish product was chromatographed over basic Alox (grade III) with dichloromethane/ethyl acetate 4:1 as the eluent and recrystallized from hot isopropyl ether. There was obtained 1.0 g (24%) of 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as yellowish crystals; m.p. 123°-125°.

reactant | 8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid prop-2-ynylamide | 0.010 mol, 3.12 g | C(C#C)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C16H13FN4O2
reactant | N-iodosuccinimide | 0.015 mol, 3.36 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | dipropylamine | 0.0865 mol, 11.9 ml | C(CC)NCCC | C6H15N
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(5-dipropylaminomethyl-oxazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.0 g, 24% | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C22H26FN5O2
